US09085555B2
C. (2S,5R)-5-Hydroxymethyl-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide
To a solution of (2S,5R)-1-benzyl-5-hydroxymethyl-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide (500 mg, 1.27 mmol) in THF (5 mL) containing 5 drops of MeOH was added Pd/C (10%, 27 mg). The solution was degassed 3 times replacing air by nitrogen and finally nitrogen by hydrogen. The reaction mixture was further stirred under hydrogen atmosphere overnight. The catalyst was removed through a pad of Celite and washed with THF. Solvents were concentrated and the resulting material was used without purification in the next step. MS (LC/MS): 305 [M+H]+; tR (HPLC conditions b): 2.89 min.

reactant | (2S,5R)-1-benzyl-5-hydroxymethyl-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | 1.27 mmol, 500 mg | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N([C@H](CC1)CO)CC1=CC=CC=C1)(F)F | C20H21F3N2O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | MeOH | 5 drops | CO | CH4O
catalyst | Pd/C | 27 mg | [Pd] | Pd
product | (2S,5R)-5-Hydroxymethyl-pyrrolidine-2-carboxylic acid (3-trifluoromethoxy-phenyl)-amide | FC(OC=1C=C(C=CC1)NC(=O)[C@H]1N[C@H](CC1)CO)(F)F | C13H15F3N2O3
